spice
* SPICE Netlist

* Voltage Source
VCC VCC 0 DC <VCC_value>

* Current Source
I1 VCC N002 DC <I1_value>

* Transistor (assuming NPN BJT)
Q1 N002 Vin 0 Q1_model

* Resistor
R01 Vout 0 <R01_value>

* Dependent Source (g_m1 controlled voltage source)
Gm1 Vout 0 Vin 0 <gm1_value>

* Models
.model Q1_model NPN(IS=1e-14 BF=100 VAF=100)

* Analysis commands
*.DC VCC 0 5 0.1
*.AC DEC 100 1 1Meg
*.TRAN 1n 1u
.END